US04714492
Sodium 6-(4-Chlorophenyl)-1,2-dimethyl-4-oxonicotinate
0.52 g (0.0065 mol) of 50% aqueous sodium hydroxide is added to a suspension of 1.8 g (0.0065 mol) 6-(4-chlorophenyl)-1,2-dimethyl-4-oxonicotinic acid in 35 ml of methanol. The solution formed is allowed to stand at room temperature for 1 hr. and then is concentrated in vacuo. The concentrate is washed with two (25 ml) portions of diethyl ether and dried to afford 1.7 g (87% yield) of product.

reactant | sodium hydroxide | 0.0065 mol, 0.52 g | [OH-].[Na+]
reactant | 6-(4-chlorophenyl)-1,2-dimethyl-4-oxonicotinic acid | 0.0065 mol, 1.8 g | ClC1=CC=C(C=C1)C=1N(C(=C(C(=O)O)C(C1)=O)C)C | C14H12ClNO3
solvent | methanol | 35 ml | CO | CH4O
product | Sodium 6-(4-Chlorophenyl)-1,2-dimethyl-4-oxonicotinate | 1.7 g, 87% yield | ClC1=CC=C(C=C1)C=1N(C(=C(C(=O)[O-])C(C1)=O)C)C.[Na+] | InChI=1S/C14H12ClNO3.Na/c1-8-13(14(18)19)12(17)7-11(16(8)2)9-3-5-10(15)6-4-9;/h3-7H,1-2H3,(H,18,19);/q;+1/p-1
